US09238640B2
To a solution of 2-amino-4,6-dimethoxy-nicotinamide (0.60 g, 3.00 mmol) and 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde (0.59 g, 3.00 mmol) in N,N-dimethylacetamide (8 mL) was added NaHSO3 (58.5 wt %, 0.59 g, 3.30 mmol) and p-TSA (0.22 g, 1.20 mmol). The reaction mixture was heated to 145-148° C. for 16 hours, then cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure, the residue was diluted with sodium bicarbonate solution (50 mL), and the solid separated was filtered and dried under vacuum. The crude compound was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in dichloromethane as eluent) to give 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-pyrido[2,3-d]pyrimidin-4-one as a white solid. Yield: 0.50 g (49%).

reactant | 2-amino-4,6-dimethoxy-nicotinamide | 3.00 mmol, 0.60 g | NC1=C(C(=O)N)C(=CC(=N1)OC)OC | C8H11N3O3
reactant | 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde | 3.00 mmol, 0.59 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | NaHSO3 | 3.30 mmol, 0.59 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.20 mmol, 0.22 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 8 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-pyrido[2,3-d]pyrimidin-4-one | OCCOC1=C(C=C(C=C1C)C=1NC(C2=C(N1)N=C(C=C2OC)OC)=O)C | C19H21N3O5
